US06359134B1
1-(4-Diisopropylaminomethylbenzoyl)piperazine)
To a solution of 1-(tert-butoxycarbonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine (4.6 g) in ethyl acetate (10 ml) was added trifluoroacetic acid (20 ml), and the solution was stirred at room temperature for 1 hour and concentrated. The residue was dissolved in water. The solution was made alkaline with sodium hydroxide solution, extracted with dichloromethane. The extract was dried and concentrated to give amorphous powders which were filtered, washed with hexane and dried to afford the title compound (3.12 g).

reactant | 1-(tert-butoxycarbonyl)-4-(4-diisopropylaminomethylbenzoyl)piperazine | 4.6 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(C1=CC=C(C=C1)CN(C(C)C)C(C)C)=O | C23H37N3O3
reactant | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Diisopropylaminomethylbenzoyl)piperazine | 3.12 g | C(C)(C)N(C(C)C)CC1=CC=C(C(=O)N2CCNCC2)C=C1 | C18H29N3O
